US06835732B2
(7-Bromoacetyl-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester
1.6 g of rac-[7-(2-bromo-1-hydroxy-ethyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester (0.0044 Mol) were dissolved in CHCl3 (100 ml) and treated with 3.8 g of MnO2 (0.044 Mol) for 3 hrs. at 70° C. The hot reaction mixture was filtered and subsequently concentrated. The crude product was crystallized from Et2O to yield the title compound as a beige solid (73%); F.p.: 250-260° C. (dec.).

reactant | rac-[7-(2-bromo-1-hydroxy-ethyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester | 0.0044 Mol, 1.6 g | COC(NC=1SC2=C(N1)C(=CC=C2C(CBr)O)OC)=O | C12H13BrN2O4S
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 0.044 Mol, 3.8 g | O=[Mn]=O
product | (7-Bromoacetyl-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester | 73% | COC(NC=1SC2=C(N1)C(=CC=C2C(CBr)=O)OC)=O | C12H11BrN2O4S
